Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Remicade / Prednisone / Vancomycin / Cipro Cystitis / Flagyl / 
Ferric Gluconate / Dilaudid / 6mercaptopurine
 
Attending: ___.
 
Chief Complaint:
labial swelling/pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical history 
Crohn's disease status post multiple surgeries rectovaginal 
fistula, osteoporosis, discectomy and anemia with iron infusions 
who presents to ___ in ___ for fever and chills. 
Patient was transferred to ___ for surgical evaluation for 
labial collection. Patient reports that she was in her usual 
state of health until ___ when she developed fevers of 
103 and chills. She presented to ___ in ___ 
there she was found to have an elevated CRP and reported new 
labial lesion that she thought was secondary to shaving. Patient 
reported that labial lesion increased in size, lactate of 3.2, 
CRP on admission was 32.3 that increased to 78.7 on discharge. 
There she was given Cipro, Flagyl, Bactrim. Patient was seen by 
general surgery and colorectal surgery. She underwent a CT scan 
that demonstrated transverse staying sigmoid, rectal segment 
with circumferential wall thickening and diffuse thickening of 
the vulva. At the level of the rectum there is enhancing mucosa 
with questionable curvilinear enhancing mucosa extending 
ventrally to the adjacent ventral vulva there is a focal 
collection at the right inferior labia of gas with surrounding 
high attenuation. These findings were concerning for a 
rectovaginal fistula, which is known and chronic for the past ___ 
years per the patient, and extensive inflammatory changes with 
an the vulva with a question of stool versus abscess in the 
right labia.

On my evaluation tonight, patient denies significant pain 
swelling or warmth in the labial area. She reports having 
numerous episodes of diarrhea with the last being at 330. She 
states that it was tested for C. difficile and was negative. She 
also reports one episode of rectal bleeding yesterday that she 
attributes to anal hemorrhoids. ROS: Pertinent positives and 
negatives as noted in the HPI. All other systems were reviewed 
and are negative. 
 
Past Medical History:
Iron deficiency anemia with infusions monthly
Osteoporosis
Rectovaginal fistula
Hernia
Crohn's
Discectomy
Component separation surgery
Hernia resection
 
Social History:
___
Family History:
Father has had an MI, mother breast cancer. No IBD in the 
family.  

 
Physical Exam:
ADMISSION:
=========
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation, stage IV
hemorrhoid, L labial with area of induration and nodule 2 cm. No
erythema or warmth. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

The patient was examined on the day of discharge. 
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
========================
___ 06:45AM BLOOD WBC-2.2* RBC-3.60* Hgb-10.9* Hct-33.3* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-14.2 RDWSD-48.3* Plt ___
___ 06:45AM BLOOD Glucose-97 UreaN-7 Creat-0.8 Na-146 K-3.6 
Cl-110* HCO3-25 AnGap-11
___ 06:45AM BLOOD CRP-60.5*
___ 06:50AM BLOOD CRP-46.1*

MICRO:
======
None

IMAGING/OTHER STUDIES: 
====================
MRI Pelvis ___
 FINDINGS: The rectum shows persistent wall thickening and is 
relatively hyperintense on T2 weighted images with prominent 
mucosal as well as serosal enhancement including adjacent 
inflammatory changes, altogether suggesting active proctitis. 
The T2 weighted and contrast enhanced images suggest the 
likelihood of a patent tract which extends from the 12:00 
position of the upper third anus to the perineal body very 
slightly to the left of midline anterior to the anus (05:26 
through 28). Exact exit point is uncertain, assuming a patent 
fistula is present, but this seems to terminate most likely 
slightly posterior to the introitus or at its margin. This is 
perhaps better delineated than on the remote prior pelvic MR but 
seems to represent the same finding. Labia majora show 
peripheral edema, left greater than right (04:18), but no 
abscess is found or other solid or cystic discrete lesion. Large 
external hemorrhoids noted about the anal verge. The uterus and 
adnexae are unremarkable. Bladder appears normal. No 
lymphadenopathy. Trace ascites is within physiological range. 
Major vascular structures appear widely patent. There are no 
marrow signal intensities appear normal. IMPRESSION: Finding 
suggesting a fistula between the anus and perineum. Active 
proctitis. No fluid collection.

LABS ON DISCHARGE: 
================
___ 06:50AM BLOOD WBC-2.9* RBC-4.25 Hgb-12.9 Hct-39.9 
MCV-94 MCH-30.4 MCHC-32.3 RDW-14.2 RDWSD-47.9* Plt ___
___ 06:50AM BLOOD Glucose-81 UreaN-8 Creat-0.8 Na-142 K-4.1 
Cl-105 HCO___ AnGap-___ with history of fistulizing Crohn's disease presents for 
further evaluation of left labial swelling in the setting of 
fevers and elevated CRP, with concern for possible rectovaginal 
fistula. 

# Labia swelling: 
No concern for abscess or superinfected cyst on exam. Evaluated 
by Gynecology who agree and do not feel surgical intervention is 
indicated at this time, but rather follow up with her outpatient 
gynecologist in ___ weeks. MRI Pelvis obtained and notable for 
fistula between anus and perineum without drainable fluid 
collection as well as evidence of active proctitis (see next). 

# Fistulizing Crohn's Disease:
MRI Pelvis notable for  fistula between anus and perineum, thus 
patient started on augmentin BID per GI recs. Her home 
non-formulary prednisilone was substituted with equivalent dose 
of oral prednisone inpatient. Weekly MTX was held on discharge 
pending further instruction from her outpatient 
gastroenterologist due to leukopenia. 

# Leukopenia: 
WBC 2.2, ANC 1.7K, with lymphopenia on differential. Thus, 
likely related to MTX. On discharge MTX is on hold pending 
instructions from her gastroenterologist, who evaluated the 
patient during her hospitalization. 

# Diarrhea:
Started at OSH in the setting of multiple antibiotics and 
resolved with discontinuation upon arrival to ___. 

# BRPBR: 
Patient with one episode of BRBPR overnight on admission without 
associated HD instability of H/H drop. Resolved spontaneously. 
Patient with significant hemorrhoids on exam, which is the 
presumed source of her bleeding episode. 

> 30 mins spent on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. prednisoLONE 6 mg oral DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. FoLIC Acid 1 mg PO DAILY 
4. Mesalamine 1500 mg PO BID 
5. Mesalamine 1000 mg PO DAILY (MIDDAY) 
6. Methotrexate 15 mg SC 1X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY  
4.  Mesalamine 1500 mg PO BID  
5.  Mesalamine 1000 mg PO DAILY (MIDDAY) 
this medication is listed as a home med. pls continue taking.   
6.  prednisoLONE 6 mg oral DAILY  
___ instructions
Do not take your methotrexate until Dr. ___ you to 
do so. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# proctitis
# Fistulizing Crohn's disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___ 
___. You were admitted for further evaluation of 
vaginal (labial) swelling with associated fevers. You had a MRI 
that demonstrated proctitis (inflammation of the end of the 
colon near the anus) and an ongoing fistula that was not 
significantly different from prior. Luckily, there was no 
abscess (infectious collection) that we needed to drain 
surgically. 

After discharge you should continue to take the new antibiotic 
Augmentin twice a day, likely for several weeks, but Dr. ___ 
will determine the proper course. You should also HOLD your 
methotrexate dose this ___ until instructed otherwise. These 
are the only two medication changes, you should take all other 
medicines as previously prescribed. Please follow up with all 
appointments as detailed below.

We wish you the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___